US09388189B2
d) 4-Hydroxy-N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-yl)benzenesulfonamide
N-(5-Bromo-2-methoxypyridin-3-yl)-4-hydroxybenzenesulfonamide (475 mg, 1.32 mmol), bis(pinacolato)diboron (437 mg, 1.72 mmol), potassium acetate (390 mg, 3.97 mmol), and bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (81 mg, 0.10 mmol) were suspended in dioxane (14 ml) and stirred overnight at 100° C. After evaporation of the solvent under reduced pressure, ethyl acetate (20 ml) was added to the residue and the precipitated salts were eliminated by filtration. The organics were washed with water and brine, dried over magnesium sulphate and evaporated under reduced pressure. The resulting crude was purified by flash chromatography using SP1® Purification System (0% to 30%, dichloromethane-ethyl acetate) to obtain 272 mg (51% yield) of the title compound. Purity: 100%

reactant | N-(5-Bromo-2-methoxypyridin-3-yl)-4-hydroxybenzenesulfonamide | 1.32 mmol, 475 mg | BrC=1C=C(C(=NC1)OC)NS(=O)(=O)C1=CC=C(C=C1)O | C12H11BrN2O4S
reactant | bis(pinacolato)diboron | 1.72 mmol, 437 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.97 mmol, 390 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 14 ml | O1CCOCC1 | C4H8O2
product | 4-Hydroxy-N-(2-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-yl)benzenesulfonamide | 272 mg, 51% yield | OC1=CC=C(C=C1)S(=O)(=O)NC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)OC | C18H23BN2O6S
